US07642361B2
3-Amino-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester
Stir a slurry of bis(methylthio)methylenepropanedinitrile, prepared in preparation 34, (69.29 g, 407 mmol) in ethanol (1.1 L) under nitrogen at rt then add ethyl thioglycolate (44.9 mL, 407 mmol) followed by triethylamine (56.7 mL, 407 mmol). Heat the resulting mixture at 65° C. for 30 min. Cool slowly to 35° C. over 45 min, then cool to 3° C. over 20 min and maintain at that temperature for 20 min. Collect precipitate by filtration, wash with cold ethanol and ether to afford the title compound: 1H NMR (CDCl3) δ 5.77 (bs, 2H), 4.28 (q, J=7.1, 2H), 2.64 (s, 3H), 1.33 (t, J=7.1, 3H); TLC (25% hexanes/ethyl acetate) Rf=0.25).

reactant | bis(methylthio)methylenepropanedinitrile | CSC(SC)=C(C#N)C#N | C6H6N2S2
reactant | ethyl thioglycolate | 407 mmol, 44.9 mL | C(CS)(=O)OCC | C4H8O2S
reactant | triethylamine | 407 mmol, 56.7 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1.1 L | C(C)O | C2H6O
product | 3-Amino-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1N)C#N)SC | C9H10N2O2S2
